US05028605
A solution of 0.8 g (2.9 mmol) of 6,8-dibromoimidazo[1,2-a]pyrazine and 1.2 g of N-bromosuccinimide in 40 ml of chloroform is brought to reflux for two hours. After being cooled, the organic solution is treated with aqueous Na2CO3 solution. The chloroform phase is collected and then evaporated. 1 g -(Yld=97%) of 3,6,8-tribromoimidazo[1,2-a]pyrazine (m.p. 161° C.) is obtained.

reactant | 6,8-dibromoimidazo[1,2-a]pyrazine | 2.9 mmol, 0.8 g | BrC=1N=C(C=2N(C1)C=CN2)Br | C6H3Br2N3
reactant | N-bromosuccinimide | 1.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,6,8-tribromoimidazo[1,2-a]pyrazine | BrC1=CN=C2N1C=C(N=C2Br)Br | C6H2Br3N3
